US04600715
590 mg of 3-ethoxycarbonyl-4-ethyl-β-carboline-6-carboxylic acid is refluxed in 6 ml of thionyl chloride with a drop of dimethylformamide for 2.5 hours. After evaporation and drying, 664 mg of 3-ethoxycarbonyl-4-ethyl-β-carboline-6-carboxylic acid chloride is obtained in the form of the hydrochloride.

reactant | 3-ethoxycarbonyl-4-ethyl-β-carboline-6-carboxylic acid | 590 mg | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1CC)C(=O)O | C17H16N2O4
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 6 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-ethoxycarbonyl-4-ethyl-β-carboline-6-carboxylic acid chloride | 664 mg | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1CC)C(=O)Cl | C17H15ClN2O3
